US07618978B2
4-Benzyloxycarbonyl-1-methylpiperazin-2-one
Dissolve 4-benzyloxycarbonylpiperazin-2-one (2 g, 8.6 mmol) in THF (10 mL). Add sodium hydride (236 mg, 9.4 mmol, 60% dispersion in mineral oil) in one portion and stir at room temperature for 30 min. Add iodomethane (0.8 mL, 13 mmol) and stir at room temperature overnight. Concentrate, add ethyl acetate and wash with water. Separate organic layer, wash with saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with ethyl acetate) to give the title compound as a yellow oil (1.7 g, 82%).

reactant | 4-benzyloxycarbonylpiperazin-2-one | 8.6 mmol, 2 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
reactant | sodium hydride | 9.4 mmol, 236 mg | [H-].[Na+]
reactant | iodomethane | 13 mmol, 0.8 mL | IC | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Benzyloxycarbonyl-1-methylpiperazin-2-one | 1.7 g, 82% | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C)=O | C13H16N2O3
